US07049444B2
N-(3-{6-Methyl-3-[3-(3-thienyl)propanoyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide
To s solution 3-(3-thienyl propanoic acid (200 mg, 1.2 mmol) in N,N-dimethylformamide (25 ml) was added 1-hydroxybenzotriazole monohydrate (200 mg, 1.31 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (340 mg, 1.77 mmol). After stirring at room temperature for 10 min the mixture was treated with the hydrochloride salt of N-[3-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide (Preparation 53, 400 mg, 1.3 mmol) and sodium hydrogen carbonate (220 mg, 2.6 mmol). The reaction mixture was stirred at room temperature for 72 h before concentrating in vacuo. Water (15 ml) was added and the reaction mixture was extracted with ethyl acetate (1×20 ml and 2×15 ml). The combined organic extracts were washed with water (15 ml) and saturated brine (15 ml), dried (MgSO4), and concentrated in vacuo to give a buff solid. The crude product was sonicated in methanol (5 ml) to afford the title compound as an off-white solid (330 mg, 63%, m.p. 179.7° C.).

reactant | 3-thienyl propanoic acid | 1.2 mmol, 200 mg | S1C=C(C=C1)C(C(=O)O)C | C7H8O2S
reactant | 1-hydroxybenzotriazole monohydrate | 1.31 mmol, 200 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.77 mmol, 340 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-[3-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide | 1.3 mmol, 400 mg | CC1(C2CNCC12)C=1C=C(C=CC1)NS(=O)(=O)C | C13H18N2O2S
reactant | sodium hydrogen carbonate | 2.6 mmol, 220 mg | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | methanol | 5 ml | CO | CH4O
product | N-(3-{6-Methyl-3-[3-(3-thienyl)propanoyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 330 mg, 63% | CC1(C2CN(CC12)C(CCC1=CSC=C1)=O)C=1C=C(C=CC1)NS(=O)(=O)C | C20H24N2O3S2
